US05952511
(RS)-3-(Ethoxycarbonylmethyl)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one
To a solution of 7.50 g of (RS)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one in 100 ml of dry dimethyl sulfoxide was added 20 ml of a 1M solution of potassium t-butoxide in dry dimethyl sulfoxide at room temperature under a nitrogen atmosphere, followed by stirring for 30 minutes. To the mixture was added dropwise a solution of 2.30 ml of ethyl bromoacetate in 20 ml of dry dimethyl sulfoxide, followed by stirring at the same temperature for 30 minutes. A sodium chloride aqueous solution was added thereto, and the mixture was extracted with ethyl ether. The ethyl ether layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to afford 8.21 g (90%) of the title compound.

reactant | (RS)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 7.50 g | C(C)OC(CN1C(C(C2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)C)=O)OCC | C22H27N3O4
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 2.30 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (RS)-3-(Ethoxycarbonylmethyl)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 8.21 g, 90% | C(C)OC(=O)CC1(C(N(C2=CC=CC=C12)CC(OCC)OCC)=O)NC(=O)NC1=CC=C(C=C1)C | C26H33N3O6
